### PR TITLE
Add various lemmas about option

### PR DESCRIPTION
**Pull request by proux01**
From the mathcomp_extra.v file of Analysis.

### CODE REVIEW

**Review by affeldt-aist — APPROVED** [review]

**Comment by proux01** [comment]
Thanks for the changelog, CI green

File: mathcomp/ssreflect/ssrbool.v [hunk 1]
```diff
@@ -432,3 +436,57 @@ Arguments mono1W_in [aT rT f aD aP rP].
...
+Proof. by move=> hD fK hK c cD /=; rewrite fK ?hK ?hD. Qed.
+
+Lemma pcan_in_comp [A B C : Type] (D : {pred B}) (D' : {pred C})
+    [f : B -> A] [h : C -> B] [f' : A -> option B] [h' : B -> option C] :
+  {homo h : x / x \in D' >-> x \in D} ->
+  {in D, pcancel f f'} -> {in D', pcancel h h'} ->
+  {in D', pcancel (f \o h) (obind h' \o f')}.
+Proof. by move=> hD fK hK c cD /=; rewrite fK/= ?hK ?hD. Qed.
+
+Definition pred_omap T (D : {pred T}) : pred (option T) :=
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/ssrbool.v:474]: Shouldn't this be `pred_oapp`?

**Review by affeldt-aist — CHANGES_REQUESTED** [review]

File: mathcomp/ssreflect/ssrbool.v (hunk 1 above)
Comment (proux01) [reply mathcomp/ssreflect/ssrbool.v:474]: I find `pred_omap` more natural. It feels to me as an option map on predicates.
But I suck at monads, so you might still be right.

Comment (affeldt-aist) [reply mathcomp/ssreflect/ssrbool.v:474]: I am not sure either but I have a doubt because of the mismatch between the name and the contents of the definition.

Comment (proux01) [reply mathcomp/ssreflect/ssrbool.v]: I agree, let's go for `pred_oapp` then.

**Review by affeldt-aist — APPROVED** [review]

**Comment by proux01** [comment]
@affeldt-aist more than one month without any comment, you can probably merge

**Comment by affeldt-aist** [comment]
> @affeldt-aist more than one month without any comment, you can probably merge

Indeed. There is however a conflict in the changelog.
